US06277861B1
7-Amino-2-methyl-3,4-dihydroisoquinolinium iodide
7-amino-3,4-dihydroisoquinoline (0.40 g, 2.74 mmol) in acetone (125 ml) was treated with iodomethane (0.50 ml, 8.03 mmol) and left stirring at room temperature for 18 h. The resultant yellow precipitate was collected by filtration and dried in vacuo at ambient temperature (0.73 g, 92%). m/z (API)=161 (M)+

reactant | 7-amino-3,4-dihydroisoquinoline | 2.74 mmol, 0.40 g | NC1=CC=C2CCN=CC2=C1 | C9H10N2
reactant | iodomethane | 8.03 mmol, 0.50 ml | IC | CH3I
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | 7-Amino-2-methyl-3,4-dihydroisoquinolinium iodide | [I-].NC1=CC=C2CC[N+](=CC2=C1)C | InChI=1S/C10H13N2.HI/c1-12-5-4-8-2-3-10(11)6-9(8)7-12;/h2-3,6-7H,4-5,11H2,1H3;1H/q+1;/p-1
